US08383642B2
Ethyl (3S)-3-[4-[[4-(spiro[indene-1,4′-piperidine]-1′-ylmethyl)phenyl]methoxy]phenyl]hex-4-ynoate
To a solution of ethyl(3S)-3-(4-hydroxyphenyl)hex-4-ynate (0.350 g, 1.5 mmol) in acetonitrile (25 mL) is added potassium carbonate (0.621 g, 4.5 mmol) and 1′-[4-(bromomethyl)benzyl]spiro[indene-1,4′-piperidine] (0.77 g, 2.1 mmol). The reaction mixture is heated for 16 hours at 90° C. The mixture is concentrated, diluted with water, and extracted with EtOAc (2×200 mL). The combined extracts are washed with water (50 mL), brine (50 mL), dried over sodium sulfate, filtered, and concentrated to dryness to give the title compound (0.3 g, 38%). ESI/MS m/z 520 (M+H)+.

reactant | ethyl(3S)-3-(4-hydroxyphenyl)hex-4-ynate | 1.5 mmol, 0.350 g | OC1=CC=C(C=C1)[C@H](CC(=O)OCC)C#CC | C14H16O3
reactant | potassium carbonate | 4.5 mmol, 0.621 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1′-[4-(bromomethyl)benzyl]spiro[indene-1,4′-piperidine] | 2.1 mmol, 0.77 g | BrCC1=CC=C(CN2CCC3(CC2)C=CC2=CC=CC=C23)C=C1 | C21H22BrN
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | Ethyl (3S)-3-[4-[[4-(spiro[indene-1,4′-piperidine]-1′-ylmethyl)phenyl]methoxy]phenyl]hex-4-ynoate | 0.3 g, 38% | N1(CCC2(CC1)C=CC1=CC=CC=C12)CC1=CC=C(C=C1)COC1=CC=C(C=C1)[C@H](CC(=O)OCC)C#CC | C35H37NO3
